US07253196B2
5-isopropyl-2-[(2,2,6,6-tetramethylpiperidin-4-yl)amino]-1,3-oxazol-4(5H)-one
Synthesis was performed from 2-amino-5-isopropyl-1,3-oxazol-4(5H)-one and 4-amino-2,2,6,6-tetramethylpiperidine according to Method G+H.

reactant | 2-amino-5-isopropyl-1,3-oxazol-4(5H)-one | NC=1OC(C(N1)=O)C(C)C | C6H10N2O2
reactant | 4-amino-2,2,6,6-tetramethylpiperidine | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
product | 5-isopropyl-2-[(2,2,6,6-tetramethylpiperidin-4-yl)amino]-1,3-oxazol-4(5H)-one | C(C)(C)C1C(N=C(O1)NC1CC(NC(C1)(C)C)(C)C)=O | C15H27N3O2
